US07723330B2
Step D: Preparation of 4-chloro-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine:
To a solution of 4-chloro-3-iodo-1H-pyrazolo[3,4-b]pyridine (1.31 g, 4.688 mmol) in DMF (40 mL) was added K2CO3 (1.30 g, 9.38 mmol) and 1-(chloromethyl)-4-methoxybenzene (0.766 ml, 5.63 mmol). The reaction mixture was stirred at room temperature overnight to yield two regioisomeric products is a 5.5:1 ratio by LC-MS. The mixture was partitioned between EtOAc and H2O. The phases were separated and the organic layer washed with brine, dried over Na2SO4, filtered and concentrated to afford a dark yellow solid. The crude product was purified by flash column chromatography, eluting with 3:1 hexanes/EtOAc and loaded with 10:1:1 CH2Cl2/MeOH/THF due to poor solubility. The desired N1-regioisomeric product (1.256 g, 67%) was obtained as a white crystalline solid. LRMS (APCI pos) m/e 400, 402 (M+, Cl pattern). The undesired N2-regioisomer, 4-chloro-3-iodo-2-(4-methoxybenzyl)-2H-pyrazolo[3,4-b]pyridine, was not isolated.

reactant | 4-chloro-3-iodo-1H-pyrazolo[3,4-b]pyridine | 4.688 mmol, 1.31 g | ClC1=C2C(=NC=C1)NN=C2I | C6H3ClIN3
reactant | K2CO3 | 9.38 mmol, 1.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 5.63 mmol, 0.766 ml | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine | 1.256 g, 67% | ClC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC | C14H11ClIN3O
